US04414390
6-Nitro-8-methoxy-3,4-dihydrocarbostyril (2 g) and 5% palladium-carbon (0.2 g) were added in ethanol (50 ml) and catalytic reduction was conducted at a hydrogen gas pressure of 3 kg/cm2 for 1 hour. Then, the reaction mixture was filtered and the filtrate was concentrated. The residue was recrystallized from benzene to give 1.7 g of 6-amino-8-methoxy-3,4-dihydrocarbostyril.

reactant | 6-Nitro-8-methoxy-3,4-dihydrocarbostyril | 2 g | [N+](=O)([O-])C=1C=C2CCC(NC2=C(C1)OC)=O | C10H10N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | 6-amino-8-methoxy-3,4-dihydrocarbostyril | 1.7 g | NC=1C=C2CCC(NC2=C(C1)OC)=O | C10H12N2O2
